US05929103
2-Methylindoline (10 m, 76.8 mmol) was dissolved in 100 m of dichloromethane and then cooled down to 0° C. To this solution were added pyridine (18.7 m, 0.22 mol) and trifluoroacetic anhydride (24 m, 0.17 mol). The reaction mixture was stirred at room temperature for 6 hours, diluted with 300 m of dichloromethane, and then washed twice with 150 m of 5% HCl. The dichloromethane layer was dried over anhydrous magnesium sulfate, and concentrated to obtain 15 g of N-trifluoroacetyl-2-methyl-indoline.

reactant | 2-Methylindoline | 76.8 mmol | CC1NC2=CC=CC=C2C1 | C9H11N
reactant | pyridine | 0.22 mol | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.17 mol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-trifluoroacetyl-2-methyl-indoline | 15 g, Yield: 85% | FC(C(=O)N1C(CC2=CC=CC=C12)C)(F)F | C11H10F3NO
